* NEGATIVE CONTROL 1/2 for the comparator LVS flow (issue #101, re-derived
* for DR-004 Amendment A's 11-device topology in issue #180) -- a
* DELIBERATELY WRONG reference. `klt lvs` MUST report "mismatch" against
* this file; layout/comparator/bin/render-record.py asserts exactly that
* (verdict 4) and fails the record if it ever comes back "match".
*
* Corruption class: DEVICE PARAMETER ONLY. Exactly one character differs
* from reference.spice -- M_INN's W is 2U instead of 4U. Every net name,
* every terminal ordering and every connection is byte-identical to the
* known-good reference, so a comparison that only checked connectivity would
* pass this file and prove nothing about parameter checking.
*
* Paired with reference.broken-topology.spice, whose corruption is the exact
* complement (topology changed, every parameter untouched). Two independent
* corruption classes are the point: either one alone leaves half of what a
* "match" verdict claims unproven. Same discipline, same reason as
* layout/trivial-cell/reference.broken-device.spice, which established this
* convention for the repo (issue #2).
*
* DO NOT "FIX" THIS FILE. Its wrongness is the whole point; a change that
* made it match would silently delete a verification verdict.
.SUBCKT comparator VDD GND CLK VINP VINN OUTP OUTN
M_TAIL TAIL CLK GND GND nfet L=0.5U W=8U
M_INN DIP VINN TAIL GND nfet L=0.5U W=2U
M_INP DIN VINP TAIL GND nfet L=0.5U W=4U
M_LATN_P OUTP OUTN DIP GND nfet L=0.5U W=4U
M_LATN_N OUTN OUTP DIN GND nfet L=0.5U W=4U
M_LATP_P OUTP OUTN VDD VDD pfet L=0.5U W=8U
M_LATP_N OUTN OUTP VDD VDD pfet L=0.5U W=8U
M_RST_P OUTP CLK VDD VDD pfet L=0.5U W=16U
M_RST_N OUTN CLK VDD VDD pfet L=0.5U W=16U
M_RST_DIP DIP CLK VDD VDD pfet L=0.5U W=4U
M_RST_DIN DIN CLK VDD VDD pfet L=0.5U W=4U
.ENDS comparator
