* comparator_pex_reference.spice -- schematic-equivalent DUT for `klt pex`
* (issue #112), NOT a copy/edit of
* sim/comparator-decision/testbench/comparator_core.spice.
*
* `klt pex`'s DUT-swap convention (docs/cli/pex.md, "The DUT `.include`
* swap") needs a testbench whose single `.include`/`.inc` line names a file
* that plausibly declares the SAME `.SUBCKT <name> <pins...>` interface as
* `klt extract`'s own output -- `klt extract`'s output is always
* `.SUBCKT`-wrapped (this sub-block's own top cell name, `gen_compose_0`,
* pin order `CLK GND OUTN OUTP VDD VINN VINP`, verified against a live
* `klt extract --parasitics --pdk sky130A` run against
* layout/comparator/reports/<record-id>/comparator.gds). Pointing
* `pex/testbench.spice`'s `.include` directly at comparator_core.spice
* would trip `klt pex`'s `flat_dut_mismatch` check instead
* (docs/cli/pex.md): that fragment is FLAT (top-level device cards, no
* `.SUBCKT` wrapper -- by design, see its own header comment, since
* sim/comparator-decision/run.py's bespoke pick-off methodology drives its
* nets directly rather than through a subcircuit instantiation). So this
* file exists purely to add the `.SUBCKT`/`.ENDS` wrapper `klt pex`
* requires around the identical device list -- the devices, sizes, and net
* names below are copied byte-for-byte from comparator_core.spice (itself
* generated from design/comparator.sch via xschem, issue #54); nothing
* about the topology or sizing is re-derived or re-judged here.
*
* Body terminals are the same real GND/VDD ties comparator_core.spice
* already declares (not layout/comparator/bin/build_layout.py's drawn tap
* structures -- those are layout-only geometry with no schematic-side
* counterpart; the *result* they achieve, every NMOS body at GND and every
* PMOS body at VDD, is what this schematic DUT asserts directly on each
* instance line, matching layout/comparator/reference.spice's own approach).
.SUBCKT gen_compose_0 CLK GND OUTN OUTP VDD VINN VINP
XM_TAIL TAIL CLK GND GND sky130_fd_pr__nfet_01v8 L=0.5 W=8 nf=1 ad=2.32 as=2.32 pd=16.58 ps=16.58 nrd=0.03625 nrs=0.03625 sa=0
+ sb=0 sd=0 mult=1 m=1
XM_INN OUTP VINN TAIL GND sky130_fd_pr__nfet_01v8 L=0.5 W=4 nf=1 ad=1.16 as=1.16 pd=8.58 ps=8.58 nrd=0.0725 nrs=0.0725 sa=0 sb=0
+ sd=0 mult=1 m=1
XM_INP OUTN VINP TAIL GND sky130_fd_pr__nfet_01v8 L=0.5 W=4 nf=1 ad=1.16 as=1.16 pd=8.58 ps=8.58 nrd=0.0725 nrs=0.0725 sa=0 sb=0
+ sd=0 mult=1 m=1
XM_LATN_P OUTP OUTN GND GND sky130_fd_pr__nfet_01v8 L=0.5 W=4 nf=1 ad=1.16 as=1.16 pd=8.58 ps=8.58 nrd=0.0725 nrs=0.0725 sa=0 sb=0
+ sd=0 mult=1 m=1
XM_LATN_N OUTN OUTP GND GND sky130_fd_pr__nfet_01v8 L=0.5 W=4 nf=1 ad=1.16 as=1.16 pd=8.58 ps=8.58 nrd=0.0725 nrs=0.0725 sa=0 sb=0
+ sd=0 mult=1 m=1
XM_LATP_P OUTP OUTN VDD VDD sky130_fd_pr__pfet_01v8 L=0.5 W=8 nf=1 ad=2.32 as=2.32 pd=16.58 ps=16.58 nrd=0.03625 nrs=0.03625 sa=0
+ sb=0 sd=0 mult=1 m=1
XM_LATP_N OUTN OUTP VDD VDD sky130_fd_pr__pfet_01v8 L=0.5 W=8 nf=1 ad=2.32 as=2.32 pd=16.58 ps=16.58 nrd=0.03625 nrs=0.03625 sa=0
+ sb=0 sd=0 mult=1 m=1
XM_RST_P OUTP CLK VDD VDD sky130_fd_pr__pfet_01v8 L=0.5 W=16 nf=1 ad=4.64 as=4.64 pd=32.58 ps=32.58 nrd=0.018125 nrs=0.018125 sa=0
+ sb=0 sd=0 mult=1 m=1
XM_RST_N OUTN CLK VDD VDD sky130_fd_pr__pfet_01v8 L=0.5 W=16 nf=1 ad=4.64 as=4.64 pd=32.58 ps=32.58 nrd=0.018125 nrs=0.018125 sa=0
+ sb=0 sd=0 mult=1 m=1
.ENDS gen_compose_0
